US07399759B2
2-[6-[(Ethylthio)methyl]-2-pyridyl]-4H-1,3-benzothiazine-4-one
Ethyl mercaptan (0.25 g, 3.30 mmol) and sodium hydride (60% in oil, 0.15 g, 3.60 mmol) were dissolved in DMF (30 ml), and 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridylmethanesulfonate (1.05 g, 3.00 mmol) was added thereto. The reaction mixture was stirred at room temperature for 18 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from n-hexane-ethyl acetate to give the titled compound (0.23 g, 24%) as pale yellow crystals.

reactant | Ethyl mercaptan | 3.30 mmol, 0.25 g | C(C)S | C2H6S
reactant | sodium hydride | 3.60 mmol, 0.15 g | [H-].[Na+]
reactant | 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridylmethanesulfonate | 3.00 mmol, 1.05 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CS(=O)(=O)[O-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[6-[(Ethylthio)methyl]-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.23 g, 24% | C(C)SCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2OS2
